US07414134B2
Step (v): Synthesis of (R)-3-(1-((R)-6-formyl-1,2,3,4-tetrahydronaphthalen-1-yl)-1H-1,2,3-triazol-4-yl)-2-(4-methylbenzenesulfonamido)propanamide (74)
To a stirred solution of (R)-3-(1-((R)-6-(hydroxymethyl)-1,2,3,4-tetrahydronaphthalen-1-yl)-1H-1,2,3-triazol-4-yl)-2-(4-methylbenzenesulfonamido)propanamide (0.66 g, 1.4 mmol) in DCE/MeCN (1:1, 30 mL) was added MnO2. The reaction mixture was stirred overnight at RT. The solid was removed by filtration, and the filtrate was concentrated to give a tan solid. MS (m/z): 468.4 (m+H).

reactant | (R)-3-(1-((R)-6-(hydroxymethyl)-1,2,3,4-tetrahydronaphthalen-1-yl)-1H-1,2,3-triazol-4-yl)-2-(4-methylbenzenesulfonamido)propanamide | 1.4 mmol, 0.66 g | OCC=1C=C2CCC[C@H](C2=CC1)N1N=NC(=C1)C[C@H](C(=O)N)NS(=O)(=O)C1=CC=C(C=C1)C | C23H27N5O4S
solvent | DCE MeCN | 30 mL | ClCCCl.CC#N
catalyst | MnO2 | O=[Mn]=O
product | (R)-3-(1-((R)-6-formyl-1,2,3,4-tetrahydronaphthalen-1-yl)-1H-1,2,3-triazol-4-yl)-2-(4-methylbenzenesulfonamido)propanamide | C(=O)C=1C=C2CCC[C@H](C2=CC1)N1N=NC(=C1)C[C@H](C(=O)N)NS(=O)(=O)C1=CC=C(C=C1)C | C23H25N5O4S
